US07692005B2
N-(3-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-acetamide
A small screw cap test tube was charged with N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide (prepared below, 52 mg, 0.161 mmol) and THF (2 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (43 mg, 0.242 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature. Hexanes were added to the reaction mixture. The solid precipitate that formed was washed with ˜1 mL of i-prOH yielding 69% (54 mg, 0.111 mmol) of the title compound.

reactant | N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide | 0.161 mmol, 52 mg | OC=C1C(NC2=CC=C(C=C12)C(=O)C=1C=C(C=CC1)NC(C)=O)=O | C18H14N2O4
reactant | N-(4-aminophenyl)morpholine | 0.242 mmol, 43 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(3-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-5-carbonyl}-phenyl)-acetamide | 0.111 mmol, 54 mg, 69% | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC=C(C=C12)C(=O)C=1C=C(C=CC1)NC(C)=O)=O | C28H26N4O4
